* Z:\home\anagix\work\2020SepTO\OR1_simple_BGR\bgr_simple.asc
M1 N003 N002 vin vin pch l=1u w=20u m=2
M2 N002 N001 vin vin pch l=1u w=20u
M3 N001 N001 vin vin pch l=1u w=20u
M4 N003 N003 N004 0 nch l=1u w=20u m=2
M5 N002 N003 N006 0 nch l=1u w=20u
M6 N001 N003 N005 0 nch l=1u w=20u
R1 vin N003 1.005Meg
R2 N008 N014 4k
R5 vout N004 1k
M7 N005 N005 N005 N014 pch l=1u w=20u ad=400e-12 as=400e-12
M8 N006 N006 N006 N008 pch l=1u w=20u ad=400e-12 as=400e-12 m=8
M9 N020 N020 N020 0 pch l=1u w=20u ad=400e-12 as=400e-12 m=2
D1 0 N001 D
D2 0 N002 D
D4 0 N003 D
R3 N007 N011 4k
R4 N011 N015 4k
R6 N015 N022 4k
R7 N007 N012 4k
R8 N012 N016 4k
R9 N016 N021 4k
R10 N021 0 4k
R11 N025 N023 4k
R12 N023 N018 4k
R13 N018 N009 4k
R14 N025 N024 4k
R15 N024 N017 4k
R16 N017 N013 4k
R17 N013 N004 4k
R18 N020 N009 4k
R19 N022 N014 800
R20 N010 N004 4k
R21 N019 N013 4k
.model D D
.lib C:\users\anagix\My Documents\LTspiceXVII\lib\cmp\standard.dio
.model NMOS NMOS
.model PMOS PMOS
.lib C:\users\anagix\My Documents\LTspiceXVII\lib\cmp\standard.mos
.backanno
.end
